US07132426B2
Preparation of 4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylsulfanyl]-piperidine-1-carboxylic acid cyclopropylmethyl ester (Compound A112)
Di-imidazol-1-yl-methanone (0.25 mmol, 41 mg), and cyclopropylmethanol (0.25 mmol, 20 μL) were dissolved in DMSO (2 mL) and stirred for 30 minutes at room temperature. Then, 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-ylsulfanyl)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride (0.18 mmol, 80 mg) and triethylamine (0.54 mmol, 75 μL) were added. The mixture was heated in a microwave for 5 minutes at 120° C. The progress of the reaction was monitored by thin layer chromatography and LCMS. Purification by HPLC provided Compound A112 as a white solid (26 mg, 29%). 1H NMR (400 MHz, CDCl3) δ (ppm): 8.72 (s, 1H); 8.41 (s, 1H); 7.87 (m, 3H); 4.40 (h, 1H); 4.01 (m, 2H); 3.87 (d, 2H); 3.19 (m, 2H); 3.06 (s, 3H); 2.17 (m, 2H); 1.73 (m, 2H); 1.07 (m, 1H); 0.51 (m, 2H); 0.25 (m, 2H). Exact mass calculated for C22H24FN5O4S2 505.59, found 506.20 (MH+).

reactant | Di-imidazol-1-yl-methanone | 0.25 mmol, 41 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | cyclopropylmethanol | 0.25 mmol, 20 μL | C1(CC1)CO | C4H8O
reactant | 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-ylsulfanyl)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride | 0.18 mmol, 80 mg | Cl.FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2SC2CCNCC2
reactant | triethylamine | 0.54 mmol, 75 μL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylsulfanyl]-piperidine-1-carboxylic acid cyclopropylmethyl ester | 26 mg, 29% | C1(CC1)COC(=O)N1CCC(CC1)SC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C22H24FN5O4S2
